US07635700B2
To a stirred mixture of 3-(5-amino-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione (0.45 g, 1.5 mmol) in tetrahydrofuran (10 mL), was added acetyl chloride (0.63 mL, 8.8 mmol) and heated at 80° C. for one hour. The mixture was quenched with a few drops of methanol. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-acetamide (80 mg, 16% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 5.15 min (98.6%); mp, 320-322° C.; 1HNMR (DMSO-d6) 2.16 (s, 3H, CH3), 2.18-2.24 (m, 1H, CHH), 2.59-2.90 (m, 6H, CHCH2, CH3), 5.32 (dd, J=6, 11 Hz, 1H, CH), 7.28-8.54 (m, 3H, Ar), 11.08 (s, 1H, NH), 11.70 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.65, 23.35, 25.29, 30.57, 56.71, 107.39, 115.09, 120.38, 135.63, 139.84, 147.84, 154.71, 163.01, 168.67, 169.29, 172.60. LCMS MH=329; Anal Calcd For C16H16N4O4+2.2H2O: C, 52.23; H, 5.59; N, 15.23. Found: C, 52.20; H, 5.57; N, 15.21.

reactant | 3-(5-amino-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 1.5 mmol, 0.45 g | NC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C14H14N4O3
reactant | acetyl chloride | 8.8 mmol, 0.63 mL | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-acetamide | 80 mg, 16% yield | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)NC(C)=O)C)=O | C16H16N4O4
